US07612099B2
Using general procedure C, 4-hydroxy-5-isopropyl-1,5-dihydro-pyrrol-2-one (Lit. 11) was reacted with benzaldehyde and N-[2-(1H-Indol-3-yl)-ethyl]-3,5-bis-trifluoromethyl-benzamide to give N-(2-{2-[(4-hydroxy-5-isopropyl-2-oxo-2,5-dihydro-1H-pyrrol-3-yl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-3,5-bis-trifluoromethyl-benzamide as a red solid. MS: 630.2 ([M+H]+).

reactant | 4-hydroxy-5-isopropyl-1,5-dihydro-pyrrol-2-one | OC1=CC(NC1C(C)C)=O | C7H11NO2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N-[2-(1H-Indol-3-yl)-ethyl]-3,5-bis-trifluoromethyl-benzamide | N1C=C(C2=CC=CC=C12)CCNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C19H14F6N2O
product | N-(2-{2-[(4-hydroxy-5-isopropyl-2-oxo-2,5-dihydro-1H-pyrrol-3-yl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-3,5-bis-trifluoromethyl-benzamide | OC1=C(C(NC1C(C)C)=O)C(C=1NC2=CC=CC=C2C1CCNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C1=CC=CC=C1 | C33H29F6N3O3
